US09359400B2
2-(((S)-5-(3-Amino-3-oxopropyl)-3,6-dioxo-1-phenyl-2,10,13,16,19,22,25,28,31,34,37,40-dodecaoxa-4,7-diazadotetracontan-42-yl)carbamoyl)-2-undecyltridecanedioic acid (ZQ-FA)
A solution of 2-((2,2-Dimethyl-4-oxo-3,8,11,14,17,20,23,26,29,32, 35,38-dodecaoxa-5-azatetracontan-40-yl)carbamoyl)-2-undecyltridecanedioic acid (20 mg, 0.018 mmol) in THF (Volume: 2 mL) was added to Z-L-Gln-Osu (Santa Cruz Biotechnology, CAS 34078-85-8, 11 mg, 0.029 mmol), then DIPEA (75 μl, 0.429 mmol) was added. Stirred at room temperature under a nitrogen atmosphere over weekend. Complete conversion was observed by LCMS (Acidic Eluent A: Water+0.05% Trifluoroacetic Acid, Eluent B: ACN, column Sunfire C18 3.5 μm 3.0×30 mm −40° C., 5-95% gradient 2 minutes, retention time 1.77 min) The reaction mixture was concentrated under reduced pressure and then dissolved in acetonitrile. Purified on a MS-triggered HPLC (Sunfire 30×50 mm Sum column ACN/H2O w/0.1% TFA 75 ml/min 1.5 ml injection, 55-80% ACN 3.5 min gradient, retention time 2.70 minutes) and the fractions pooled and lyophilized to give 10.5 mg clean product ZQ-FA in 46% yield as a clear colorless oil.

reactant | 2-((2,2-Dimethyl-4-oxo-3,8,11,14,17,20,23,26,29,32, 35,38-dodecaoxa-5-azatetracontan-40-yl)carbamoyl)-2-undecyltridecanedioic acid | 0.018 mmol, 20 mg | CC(C)(OC(NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(=O)C(C(=O)O)(CCCCCCCCCCC(=O)O)CCCCCCCCCCC)=O)C | C54H104N2O18
reactant | Z-L-Gln-Osu | 0.029 mmol, 11 mg | C1CC(=O)N(C1=O)OC(=O)[C@H](CCC(=O)N)NC(=O)OCC2=CC=CC=C2 | C17H19N3O7
reactant | DIPEA | 0.429 mmol, 75 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ACN | C(C)#N | C2H3N
product | 2-(((S)-5-(3-Amino-3-oxopropyl)-3,6-dioxo-1-phenyl-2,10,13,16,19,22,25,28,31,34,37,40-dodecaoxa-4,7-diazadotetracontan-42-yl)carbamoyl)-2-undecyltridecanedioic acid | 10.5 mg, 46% yield | NC(CC[C@H](NC(OCC1=CC=CC=C1)=O)C(NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(=O)C(C(=O)O)(CCCCCCCCCCC(=O)O)CCCCCCCCCCC)=O)=O | C62H110N4O20
